US07547706B2
Under nitrogen, 27 ml (292 mmol) of phosphorus oxychloride were added dropwise at 0° C. to 28 ml (366 mmol) of N,N-dimethylformamide in 190 ml of dichloromethane. The mixture was stirred for 2 h at ambient temperature. It was cooled to 0° C. and 24.5 g (146 mmol) of 6-chloro-1,3-dihydro-2H-indol-2-one were added in small portions. The mixture was stirred for 4 h at ambient temperature. It was cooled to 0° C. and 12.7 ml (146 mmol) of oxalyl chloride were added. Next, it was stirred for 12 h at ambient temperature. The mixture was cooled and 250 ml of water were added. The organic phase was decanted and washed with water (3 times). A solid precipitated from the organic phase. It was recovered by filtration and dried under reduced pressure in the presence of phosphorus pentoxide. The aqueous phases were combined and stirred for around 7 h. A solid precipitated from the aqueous phase. It was recovered by filtration and it was also dried under reduced pressure in the presence of phosphorus pentoxide. The two precipitates were combined and 16 g of 2,6-dichloro-1H-indole-3-carbaldehyde were obtained in the form of a white/beige solid.

reactant | phosphorus oxychloride | 292 mmol, 27 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 366 mmol | CN(C=O)C | C3H7NO
reactant | 6-chloro-1,3-dihydro-2H-indol-2-one | 146 mmol, 24.5 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | oxalyl chloride | 146 mmol, 12.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 190 ml | ClCCl | CH2Cl2
solvent | water | 250 ml | O | H2O
product | 2,6-dichloro-1H-indole-3-carbaldehyde | 16 g | ClC=1NC2=CC(=CC=C2C1C=O)Cl | C9H5Cl2NO
